US03933886
1-Amino-2-nitro-4-(ω-ethoxycarbonyl-acetylamino)-benzene
7.65 gm (0.05 mol) of 1,4-diamino-2-nitrobenzene were added to 80 ml of absolute tetrahydrofuran and 5.1 gm (0.05 mol) of triethylamine at room temperature to form a solution. While this mixture was being stirred, 7.5 gm (0.05 mol) of malonic acid monoethylester chloride were added dropwise thereto. After termination of the addition, the mixture was stirred at room temperature for another 6 hours. Then the solvent was evaporated in vacuo for the most part. The residue was suctioned off and recrystallized once from ethanol/activated charcoal and a second time from water. The product had a melting point of 133°-136°C.

reactant | 1,4-diamino-2-nitrobenzene | 0.05 mol, 7.65 gm | NC1=C(C=C(C=C1)N)[N+](=O)[O-] | C6H7N3O2
reactant | triethylamine | 0.05 mol, 5.1 gm | C(C)N(CC)CC | C6H15N
reactant | malonic acid monoethylester chloride | 0.05 mol, 7.5 gm | [Cl-].C(C)OC(CC(=O)O)=O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 1-Amino-2-nitro-4-(ω-ethoxycarbonyl-acetylamino)-benzene | NC1=C(C=C(C=C1)NC(CC(=O)OCC)=O)[N+](=O)[O-] | C11H13N3O5
